US04477385
The reaction was carried out in a glass reactor furnished with a thermometer, mechanical stirrer, Dean Stark type collector equipped with a reflux condenser and gas and liquid tubes. The reactor was charged with 40 g. of octanoic acid, 10 g. (78 m mols) of naphthalene, 8 g. of heptane, 0.34 g. (1.5 millimols) of Pd(OAc)2 0.45 g (1.5 m mols of Sb(OAc)3 and 0.15 g (1.5 m mols) of KOAc. Dean Stark Collector was filled with heptane. The reaction was carried out at 170° C. with vigorous stirring for 5 hours. GLC analysis showed that 57 m mols (73% yield) of naphthyl octanoate were produced.

reactant | octanoic acid | C(CCCCCCC)(=O)O | C8H16O2
reactant | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | KOAc | 0.15 g | CC(=O)[O-].[K+]
catalyst | Pd(OAc)2 | 1.5 millimols, 0.45 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | heptane | CCCCCCC | C7H16
product | naphthyl octanoate | 73% yield | C(CCCCCCC)(=O)OC1=CC=CC2=CC=CC=C12 | C18H22O2
